US07094780B1
(b) 3-(1-Aminoethyl)-3-fluoropyrrolidine-1-carboxylic acid benzyl ester
A solution of 3-(1-azidoethyl)-3-fluoropyrrolidine-1-carboxylic acid benzyl ester (Example A16, 0.16 g, 0.5 mmol) in methanol (10 mL) is treated with Raney nickel (100 mg, wet weight) and shaken in a hydrogen atmosphere at room temperature and at 55 psi for 17 hours. The catalyst is removed by filtration through Celite, and the solvent is removed in vacuo to afford the title compound (0.12 g). 1H NMR (200 MHz, CDCl3): δ 7.30 (s, 5H), 5.12 (s, 2H), 3.84–3.22 (m, 5H), 2.23–1.79 (m, 4H), 1.20 (d, 3H).

reactant | 3-(1-azidoethyl)-3-fluoropyrrolidine-1-carboxylic acid benzyl ester | 0.5 mmol, 0.16 g | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)(F)C(C)N=[N+]=[N-] | C14H17FN4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Raney nickel | 100 mg | [Ni] | Ni
product | 3-(1-Aminoethyl)-3-fluoropyrrolidine-1-carboxylic acid benzyl ester | 0.12 g | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)(F)C(C)N | C14H19FN2O2
